US05412117
To a mixture of 120 mg of N-methyl-6-nitro-spiro[2H-1benzopyran-2,1'-cyclohexane]-4-carbothioamide, 150 μl of iodoethane, and 3 ml of dried tetrahydrofuran was added 23 mg of sodium hydride (60%) with stirring and cooling with ice followed by refluxlng for 2 hours. After cooling to room temperature, 80 mg of cyanamide and 17 mg of sodium hydride (60%) were added thereto, followed by refluxing for 4 hours. Ice-water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (developing solution: ethyl acetate:hexane=2:3) recrystallized from a mixed solvent of ethyl acetate and hexane to obtain 90 mg of N-cyano-N'-methyl-6-nitrospiro[2H-1-benzopyran-2,1'-cyclohexane]-4-carboxamidine having formula shown below.

reactant | N-methyl-6-nitro-spiro[2H-1benzopyran-2,1'-cyclohexane]-4-carbothioamide | 120 mg | CNC(=S)C1=CC2(CCCCC2)OC2=C1C=C(C=C2)[N+](=O)[O-] | C16H18N2O3S
reactant | iodoethane | 150 μl | ICC | C2H5I
reactant | sodium hydride | 23 mg | [H-].[Na+]
reactant | cyanamide | 80 mg | N#CN | CH2N2
reactant | sodium hydride | 17 mg | [H-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-cyano-N'-methyl-6-nitrospiro[2H-1-benzopyran-2,1'-cyclohexane]-4-carboxamidine | 90 mg | C(#N)NC(=NC)C1=CC2(CCCCC2)OC2=C1C=C(C=C2)[N+](=O)[O-] | C17H18N4O3
